US08536187B2
4-{[6-(4-Fluoro-phenyl)-4-(1-trifluoromethyl-cyclobutylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide;
4-{[6-(4-Fluoro-phenyl)-4-(1-trifluoromethyl-cyclopentylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide; 4-{[6-(4-Fluoro-phenyl)-4-(1-trifluoromethyl-cyclohexylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide.

reactant | 4-{[6-(4-Fluoro-phenyl)-4-(1-trifluoromethyl-cyclopentylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)NC1(CCCC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N | C26H24F4N6O2S
reactant | 4-{[6-(4-Fluoro-phenyl)-4-(1-trifluoromethyl-cyclohexylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)NC1(CCCCC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N | C27H26F4N6O2S
product | 4-{[6-(4-Fluoro-phenyl)-4-(1-trifluoromethyl-cyclobutylamino)-pyrido[3,2-d]pyrimidin-2-ylamino]-methyl}-benzenesulfonamide | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)NC1(CCC1)C(F)(F)F)NCC1=CC=C(C=C1)S(=O)(=O)N | C25H22F4N6O2S
